US05221671
5-(2-Chlorophenyl)-8-cyclopropanecarbonyl-3-methyl-6,7,8,9-tetrahydro-1H,3H-pyrido[4',3':4,5]thieno[3,2-f][1,4]diazepin-2-one
12.95 g of 2-(2-aminopropionylamino)-3-(2-chlorobenzoyl)-6-cyclopropanecarbonyl-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine was dissolved in 260 ml of toluene and 90 ml of pyridine, to which 5.4 g of acetic acid was added, followed by heating under reflux for 5 hours. After removal of the solvent by distillation, benzene was added and the resultant crystals were collected by filtration to obtain 2.96 g of the intended compound. The mother liquor was subjected to silica gel column chromatography (elution solvent: ethyl acetate:hexane=4:6) to obtain 3.84 g of the intended compound.

reactant | 2-(2-aminopropionylamino)-3-(2-chlorobenzoyl)-6-cyclopropanecarbonyl-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine | 12.95 g | NC(C(=O)NC1=C(C2=C(CN(CC2)C(=O)C2CC2)S1)C(C1=C(C=CC=C1)Cl)=O)C | C21H22ClN3O3S
reactant | acetic acid | 5.4 g | C(C)(=O)O | C2H4O2
solvent | toluene | 260 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
product | 5-(2-Chlorophenyl)-8-cyclopropanecarbonyl-3-methyl-6,7,8,9-tetrahydro-1H,3H-pyrido[4',3':4,5]thieno[3,2-f][1,4]diazepin-2-one | 2.96 g | ClC1=C(C=CC=C1)C1=NC(C(NC2=C1C1=C(S2)CN(CC1)C(=O)C1CC1)=O)C | C21H20ClN3O2S
